US05532267
6-amidino-2-naphthyl 5-(3-carboxypropionylaminomethyl)furan-2-carboxylate hydrochloride
To 22.3 g of succinic acid, 24.0 g of 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride and 790 mg of DMAP was added 240 ml of pyridine, and the mixture was stirred while cooling with ice. After 10 minutes, 25.9 g of DCC was added and the mixture was stirred for 3 hours while cooling with ice and then for 16 hours at room temperature. The precipitate was filtered off, and the filtrate was added in small portions into 2 l of ether and stirred at room temperature for 3 hours. After removing the supernatant by decantation, 1 l of acetone was added to the residue and stirred for 3 hours. The precipitate was collected by filtration to obtain 24.0 g of the intended product.

reactant | succinic acid | 22.3 g | C(CCC(=O)O)(=O)O | C4H6O4
reactant | 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride | 24.0 g | Cl.Cl.NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
reactant | DCC | 25.9 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 790 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 240 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 5-(3-carboxypropionylaminomethyl)furan-2-carboxylate hydrochloride | 24.0 g | Cl.C(=O)(O)CCC(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C21H19N3O6.ClH/c22-20(23)14-2-1-13-10-15(4-3-12(13)9-14)30-21(28)17-6-5-16(29-17)11-24-18(25)7-8-19(26)27;/h1-6,9-10H,7-8,11H2,(H3,22,23)(H,24,25)(H,26,27);1H
